US09238644B2
(d) 2-(2-Ethynylphenyl)-2-methylpropanamide (A36)
A solution of 2-methyl-2-(2-((triethylsilyl)ethynyl)phenyl)propanamide A35 (0.116 g, 0.385 mmol) in THF (5 mL) was stirred with TBAF (1.0 M in THF, 0.40 mL, 0.40 mmol) at 0° C. for 2 minutes. Sat. aq. NaHCO3 (20 mL) was added and the aqueous phase was extracted with EtOAc (3×30 mL). The combined organics were washed with brine, dried (MgSO4) and the solvent was removed in vacuo. The resultant yellow oil was purified by column chromatography (Biotage Isolera, 24 g SiO2 cartridge, 20-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound A36 as a yellow solid (0.060 g, 83%). LCMS-D: rt 3.02 min; m/z 188 [M+H]+.

reactant | 2-methyl-2-(2-((triethylsilyl)ethynyl)phenyl)propanamide | CC(C(=O)N)(C)C1=C(C=CC=C1)C#C[Si](CC)(CC)CC | C18H27NOSi
reactant | TBAF | 0.40 mmol, 1.0 M, 0.40 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(2-Ethynylphenyl)-2-methylpropanamide | C(#C)C1=C(C=CC=C1)C(C(=O)N)(C)C | C12H13NO
